US06048877
3,4-Dihydro-6methoxy-2-[(4-phenyl-1-piperidinyl)methyl]-1(2H)-naphthalenone, hydrochloride
Concentrated hydrochloric acid (4.9 mL) was added to a solution of 4-phenylpiperidine (9.38 g, 58.2 mmol) in isopropanol (60 mL) at 10-15° C. followed by the sequential addition of 6-methoxy-1-tetralone (9.76 g, 55.4 mmol), 37% aqueous formaldehyde (5.72 g) and 60 mL isopropanol. The mixture was refluxed for 1 hour, diluted with toluene, concentrated and the residue recrystallized sequentially from acetone and ethanol to afford the title compound as a white solid (5 g), mp 177-8° C.

reactant | hydrochloric acid | 4.9 mL | Cl | ClH
reactant | 4-phenylpiperidine | 58.2 mmol, 9.38 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | 6-methoxy-1-tetralone | 55.4 mmol, 9.76 g | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | formaldehyde | 5.72 g | C=O | CH2O
solvent | isopropanol | 60 mL | C(C)(C)O | C3H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | isopropanol | 60 mL | C(C)(C)O | C3H8O
product | 3,4-Dihydro-6methoxy-2-[(4-phenyl-1-piperidinyl)methyl]-1(2H)-naphthalenone, hydrochloride | 5 g | Cl.COC=1C=C2CCC(C(C2=CC1)=O)CN1CCC(CC1)C1=CC=CC=C1 | InChI=1S/C23H27NO2.ClH/c1-26-21-9-10-22-19(15-21)7-8-20(23(22)25)16-24-13-11-18(12-14-24)17-5-3-2-4-6-17;/h2-6,9-10,15,18,20H,7-8,11-14,16H2,1H3;1H
